US07842694B2
2,3-Dichloro-5-(pyrrolidin-1-ylcarbonyl)pyridine
Oxalyl chloride (3.2 mL; 36.0 mmol) was added to a solution of 5,6 dichloronicotinic acid (5.76 g; 30.0 mmol) and 4M hydrogen chloride in dioxan (7.5 mL; 30.0 mmol) in DCM (50 mL). The mixture was stirred at RT for 18 hours, the DCM evaporated in vacuo, the residue azeotroped with toluene (2×15 mL) then added to a solution of pyrrolidine (3.0 mL; 36.0 mmol) and triethylamine (10.0 mL; 72 mmol) in DCM (150 mL). The mixture was stirred at RT for 6 hours, the DCM evaporated in vacuo, the residue partitioned between water (75 mL) and ethyl acetate (100 mL), the organic layer washed with brine, dried (MgSO4) and evaporated in vacuo. The residue was chromatographed on silica, eluting with 50% ethyl acetate in isohexane, to give the desired compound which was further purified by crystallisation from ethyl acetate and isohexane (6.88 g). 1H NMR δ (CDCl3): 1.9 (m, 4H), 3.4 (m, 2H), 3.6 (s, 3H), 7.9 (s, 1H) and 8.4 (s, 1H); m/z 245 (M+H)+.

reactant | Oxalyl chloride | 36.0 mmol, 3.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5,6 dichloronicotinic acid | 30.0 mmol, 5.76 g | ClC=1C(=NC=C(C(=O)O)C1)Cl | C6H3Cl2NO2
reactant | hydrogen chloride | 4M | Cl | ClH
reactant | dioxan | 30.0 mmol, 7.5 mL | O1CCOCC1 | C4H8O2
reactant | pyrrolidine | 36.0 mmol, 3.0 mL | N1CCCC1 | C4H9N
reactant | triethylamine | 72 mmol, 10.0 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | 2,3-Dichloro-5-(pyrrolidin-1-ylcarbonyl)pyridine | ClC1=NC=C(C=C1Cl)C(=O)N1CCCC1 | C10H10Cl2N2O
